US05191084
2-acetyl-5-[3-(cyclopentyloxy)-4-methoxyphenyl]-1-methyl-3-pyrazolidinone hydrochloride
5-[3-(Cyclopentyloxy)-4-methoxyphenyl]-1-methyl-3-pyrazolidinone (0.500 g) is dissolved in acetic anhydride (15 mL). The resulting solution is warmed to reflux for 2 hours, cooled to room temperature and concentrated in vacuo to afford an oil. This residue is dissolved in ether and treated with ethanolic HCl at room temperature. The resulting solid is stirred for 4 hours at room temperature, collected by suction and dried in vacuo to afford the title compound as a white powder (0.621 g; 98%) mp: 82°-85° C. 1H NMR (DMSO-d6, 400 MHz) δ6.88 (m, 3H); 3.85 (s, 3H); 2.82 (s, 3H); 2.52 (s, 3H); 2.00 (m, 2H); 1.84 (m, 3H); 1.64 (m, 2H). IR (KBr, cm-1) 1730.

reactant | 5-[3-(Cyclopentyloxy)-4-methoxyphenyl]-1-methyl-3-pyrazolidinone | 0.500 g | C1(CCCC1)OC=1C=C(C=CC1OC)C1CC(NN1C)=O | C16H22N2O3
reactant | HCl | Cl | ClH
reactant | acetic anhydride | 15 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | ether | CCOCC | C4H10O
product | 2-acetyl-5-[3-(cyclopentyloxy)-4-methoxyphenyl]-1-methyl-3-pyrazolidinone hydrochloride | 0.621 g, 98% | Cl.C(C)(=O)N1N(C(CC1=O)C1=CC(=C(C=C1)OC)OC1CCCC1)C | InChI=1S/C18H24N2O4.ClH/c1-12(21)20-18(22)11-15(19(20)2)13-8-9-16(23-3)17(10-13)24-14-6-4-5-7-14;/h8-10,14-15H,4-7,11H2,1-3H3;1H
